US07728003B2
Step A. 8-Cyclohexyl-5-oxo-2-(2-morpholin-4-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 28 Step F, the title compound was prepared from 2-morpholin-4-yl-ethylamine and 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (30 mg, 0.08 mmol). 8-Cyclohexyl-5-oxo-2-(2-morpholin-4-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid (25 mg, 80%). Mass Spectrum (LCMS, ESI pos.) Calcd. For C22H31N5O4: 430.24 (M+H). Found: 430.2.

reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
reactant | 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.08 mmol, 30 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
product | 8-Cyclohexyl-5-oxo-2-(2-morpholin-4-yl-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCN2CCOCC2)N(C1)C1CCCCC1)=O | C22H31N5O4
